US08202863B2
A mixture of 2-(2,5-difluoro-phenyl)-pyrimidine-5-carboxylic acid (118 mg, 0.5 mmol, prepared according to the general procedure described in Example 2, steps 1 and 2), and 0-(7-azabenzotriazol-1-yl)-N,N,N,N-tetramethyluronium hexafluorophosphate (190 mg, 0.5 mmol) in dry DMF (5 mL) is treated with 0.09 mL of diisopropylethylamine and stirred at room temperature for 30 minutes. A solution of 3-methylsulfamoylbenzylamine (150 mg, 0.75 mmol) in dry DMF (1 mL) is added and the mixture stirred at room temperature for 24 hours. The solvent is removed and the residue partitioned between EtOAc and saturated NaHCO3. The organic phase is separated and washed with water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue is purified by column chromatography eluting with 20% EtOAc in DCM to afford 2-(2,5-difluoro-phenyl)-pyrimidine-5-carboxylic acid 3-methylsulfamoyl-benzylamide (135 mg, 65%) as a solid. MS: 419 (M+H); 1H NMR (300 MHz, DMSO-d6): δ 2.41 (d, 3H), 4.64 (d, 2H), 7.43-7.78 (m, 5H), 7.89 (s, 1H) 7.90 (t, 1H), 9.37 (s, 2H), 9.60 (t, 1H).

reactant | 2-(2,5-difluoro-phenyl)-pyrimidine-5-carboxylic acid | FC1=C(C=C(C=C1)F)C1=NC=C(C=N1)C(=O)O | C11H6F2N2O2
reactant | diisopropylethylamine | 0.09 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-methylsulfamoylbenzylamine | 0.75 mmol, 150 mg | CNS(=O)(=O)C=1C=C(CN)C=CC1 | C8H12N2O2S
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-(2,5-difluoro-phenyl)-pyrimidine-5-carboxylic acid 3-methylsulfamoyl-benzylamide | 135 mg, 65% | CNS(=O)(=O)C=1C=C(CNC(=O)C=2C=NC(=NC2)C2=C(C=CC(=C2)F)F)C=CC1 | C19H16F2N4O3S
